US06713471B1
Ethanolamine (4.78 g, 78.3 mmol) and phthalide (10.0 g, 74.6 mmol) were placed in a round-bottom flask equipped with a Dean-stark trap. The reaction mixture was heated at 150° C. for 4 h then 18 h at 205° C. The product was solidified upon cooling. Pure 2-(2-hydroxyethyl)isoindolinone (10.8 g, 82%) was isolated by recrystalization in CHC13/hexanes as a white crystal. 1H NMR (CDCl3, 300 MHz) δ3.02-3.15 (br, 1H), 3.78 (t, 2H, J=5.0 Hz), 3.93 (t, 2H, J=4.4 Hz), 4.52 (s, 2H), 7.42-7.58 (m, 3H), 7.84 (d, 1H, J=7.4 Hz) ppm.

reactant | Ethanolamine | 78.3 mmol, 4.78 g | C(O)CN | C2H7NO
reactant | phthalide | 74.6 mmol, 10.0 g | C1(=O)OCC2=CC=CC=C12 | C8H6O2
product | 2-(2-hydroxyethyl)isoindolinone | 10.8 g, 82% | OCCN1C(C2=CC=CC=C2C1)=O | C10H11NO2
